US06794336B2
1c) 2-(1-Methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(but-2-enoyl-aminomethyl)-pyridine
0.100 g (0.368 mmol) of 2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(aminomethyl)-pyridine was introduced in 5 ml of methylene chloride together with 71.1 mg (0.55 mmol) of diisopropylethylamine, at room temperature 46.1 mg (0.44 mmol) of but-2-enoyl chloride were added and the mixture was stirred at room temperature for 3 h. The crude product was concentrated, subjected to extraction with 1 N HCl and ethyl acetate and then filtered over a silica gel bed. The filtrate was concentrated. The residue was crystalline.

reactant | 2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(aminomethyl)-pyridine | 0.368 mmol, 0.100 g | CN1N=C(C=C1OC1=NC(=CC=C1)CN)C(F)(F)F | C11H11F3N4O
reactant | diisopropylethylamine | 0.55 mmol, 71.1 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | but-2-enoyl chloride | 0.44 mmol, 46.1 mg | C(C=CC)(=O)Cl | C4H5ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-Methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(but-2-enoyl-aminomethyl)-pyridine | CN1N=C(C=C1OC1=NC(=CC=C1)C(N)C(C=CC)=O)C(F)(F)F | C15H15F3N4O2
